US08222248B2
A mixture of methyl 3-aminobenzoate (5.0 g, 33.1 mmol) and benzyltrimethylammonium iodonium dichloride (11.51 g, 33.1 mmols) in acetic acid (20 mL) was stirred at ambient temperature for 18 h. The mixture was concentrated, then poured into ethyl acetate and extracted with aq. NaOH until washes remained basic. The washes were back-extracted with ethyl acetate and the combined ethyl acetate layers were dried, filtered, and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel using a gradient of 0-40% heptane/ethyl acetate to afford methyl 3-amino-4-iodobenzoate.

reactant | methyl 3-aminobenzoate | 33.1 mmol, 5.0 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | benzyltrimethylammonium iodonium dichloride | 33.1 mmols, 11.51 g | [Cl-].[Cl-].[IH2+].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | methyl 3-amino-4-iodobenzoate | NC=1C=C(C(=O)OC)C=CC1I | C8H8INO2
